US06916807B2
1-(6-{4-[4-(4Fluoro-phenyl)-oxazol-2-yl]-phenoxy}-pyridin-3-yl)-1,7,9-triaza-spiro[4.5]decane-6,8,10-trione
1-(6-{4-[4-(4-Fluoro-phenyl)-oxazol-2-yl]-phenoxy}-pyridin-3-yl)-pyrrolidine-2,2-dicarboxylic acid diethyl ester (5.0 grams, 9.16 mmol) and recrystallized urea (2.75 grams, 45.82 mmol) were dissolved in anhydrous dimethylsulfoxide (110 mL), and the solution was placed in a cold water bath. Sodium hydride (770 mg of a 60% dispersion in mineral oil, 19.23 mmol) was added in two portions. The cold water bath was removed after an addition of the second portion, and the resulting solution was stirred for 1 hour at room temperature. The reaction was then poured into 550 mL water and stirred for 20 minutes until cool. The aqueous layer was extracted three times with diethyl ether, and the combined organic layers were set aside. The pH of the aqueous layer was adjusted to 5 with 1 M hydrochloric acid, and the aqueous layer was extracted three times with ethyl acetate. The combined ethyl acetate layers were washed with water and a solution of saturated sodium chloride, dried over sodium sulfate, and concentrated to give 4.8 grams of crude product as a white foam. This material was chromatographed on silica gel (ISCO MPLC purification, 50 minutes, 0-100% ethyl acetate gradient, Biotage flash 40 m column) to provide 3.44 grams (73%) of the title compound as a white solid. MS m/z: ESI+ 514.0 (M+H)+; ESI− 512.1 (M−H)−.

reactant | 1-(6-{4-[4-(4-Fluoro-phenyl)-oxazol-2-yl]-phenoxy}-pyridin-3-yl)-pyrrolidine-2,2-dicarboxylic acid diethyl ester | 9.16 mmol, 5.0 grams | C(C)OC(=O)C1(N(CCC1)C=1C=NC(=CC1)OC1=CC=C(C=C1)C=1OC=C(N1)C1=CC=C(C=C1)F)C(=O)OCC | C30H28FN3O6
reactant | urea | 45.82 mmol, 2.75 grams | NC(=O)N | CH4N2O
reactant | Sodium hydride | [H-].[Na+]
solvent | dimethylsulfoxide | 110 mL | CS(=O)C | C2H6OS
product | 1-(6-{4-[4-(4Fluoro-phenyl)-oxazol-2-yl]-phenoxy}-pyridin-3-yl)-1,7,9-triaza-spiro[4.5]decane-6,8,10-trione | 3.44 grams, 73% | FC1=CC=C(C=C1)C=1N=C(OC1)C1=CC=C(OC2=CC=C(C=N2)N2CCCC23C(NC(NC3=O)=O)=O)C=C1 | C27H20FN5O5
